datasets/RMG-dataset.csv
rxn,Ea
[C:0]1([H:9])=[C:1]([H:10])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16].[H:17]>>[C:0]1([H:9])[C:1]([H:10])([H:17])[c:2]2[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]2[C:8]1([H:15])[H:16],12.857432
[C:0]([O:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8]([H:9])([H:10])[H:11]>>[C:0]([O:1][C:2](=[O:3])[H:7])([H:5])[H:6].[H:4][C:8]([H:9])([H:10])[H:11],29.932336
[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[O:10]>>[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[H:3][O:10],2.326304
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:16])[H:17])[H:15])([H:10])[H:11])[H:9])([H:7])[H:8]>>[C:0]1([H:7])([H:8])[C:1]([H:9])[C:2]([H:10])([H:11])[C:3]1([C:4]([H:12])([H:13])[H:14])[C:5](=[C:6]([H:16])[H:17])[H:15],166.44
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])([H:9])[C:18]([C:17](=[C:16]([H:20])[H:21])[H:22])([C:19]([H:24])([H:25])[H:26])[H:23])[H:8])([H:6])[H:7],51.9653
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([O:4][O:5])[H:11])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:0]([C:1](=[C:2]([C:3]([H:12])([H:13])[H:14])[H:11])[H:10])([H:6])([H:7])[H:8].[O:4][O:5][H:9],123.846
[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]1[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:16])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([C:3]([C:4](=[C:5]1[C:6]([H:17])=[C:7]([H:18])[C:8]([H:19])=[C:9]1[H:20])[H:16])[H:15])[H:13])[H:12])([H:10])([H:11])[H:14],113.3864
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13]([O:14][O:15])([H:16])([H:17])[H:18]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:11])[H:12])[H:7])([H:5])[H:6].[H:10][O:15][O:14][C:13]([H:16])([H:17])[H:18],56.6814848
[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([C:6]#[C:7][H:14])[H:13])[H:12])([H:10])[H:11])[H:9])[H:8]>>[C:0](#[C:1][C:2]1([H:9])[C:3]([H:10])([H:11])[C:4]([H:12])[C:5]1([C:6]#[C:7][H:14])[H:13])[H:8],153.302
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13]>>[C:0](#[C:1][C:2]=[C:3]([C:4](=[C:5]([H:8])[H:9])[H:7])[C:10]([C:11]([H:14])([H:15])[H:16])([H:12])[H:13])[H:6],19.5811
[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])([H:8])[H:9].[H:16]>>[C:0](=[C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:9].[H:8][H:16],50.8846
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11].[C:31](=[O:32])[H:33]>>[C-:31]#[O+:32].[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])([H:29])[H:30])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])([H:11])[H:33],0.0
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9]([O:10][H:14])([H:11])([H:12])[H:13]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[O:10][C:9]([H:11])([H:12])[H:13])[H:4].[H:14],197.022
[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:18]([C:19]=[S:20])([H:21])([H:22])[H:23]>>[C:0]([C:1]([c:2]1[c:3]([H:13])[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]1[H:17])[H:12])([H:8])([H:9])[H:10].[H:11][C:19]([C:18]([H:21])([H:22])[H:23])=[S:20],42.6768
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[O:9][O:10][C:11](=[O:12])[H:13]>>[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][O:9][O:10][C:11](=[O:12])[H:13],58.19944
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16](=[S:17])[H:23])([H:21])[H:22])([H:18])([H:19])[H:20]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:21])[H:7])([H:5])[H:6].[C:14]([C:15]([C:16](=[S:17])[H:23])[H:22])([H:18])([H:19])[H:20],48.7018
[C:0](=[S:1])([H:2])[H:3].[H:4]>>[C:0]([S:1][H:4])([H:2])[H:3],-2.9288
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])[H:4].[H:8]>>[C:0](=[C:1][C:2](=[C:3]([H:6])[H:7])[H:5])([H:4])[H:8],6.86176
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[C:14]([C:15](=[S:16])[H:20])([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:17])[H:7])([H:5])[H:6].[C:14]([C:15](=[S:16])[H:20])([H:18])[H:19],75.7304
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[N:11]([H:12])[H:13]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:4])[H:5].[H:3][N:11]([H:12])[H:13],41.84
